US04209616
A solution of t-butyl 3-acetoxymethyl-7β-(2-dichloroacetoxyimino-2-phenylacetamido)-ceph-3-em-4-carboxylate (3.0 g) in trifluoroacetic acid (25 ml.) was allowed to stand at room temperature for ten minutes. The excess acid was removed under reduced pressure, and benzene evaporated from the residue, which was taken up into ethyl acetate and extracted into saturated aqueous sodium bicarbonate. The aqueous phase was washed with ethyl acetate, acidified and extracted with ethyl acetate. The extracts were combined, dried, concentrated to about 5 ml and added dropwise to petroleum (200 ml.). The solid which precipitated was filtered and dried, giving 3-acetoxymethyl-7β-(2-hydroxyamino-2-phenylacetamido)ceph-3-em-4-carboxylic acid (syn-isomer) as a white solid (1.9 g; 88%) [α]D +68° (c 0.8 DMSO), λmax. (EtOH) 254 nm (ε 17,600), νmax. (Nujol) 3380 (NH and OH) 1778 (β-lactam), 1720 (CO2H and acetate), 1666 and 1540 cm-1 (CONH), τ(DMSO-d6) values include 0.32 (doublet, J 9 Hz; NH of syn-isomer), 1.00 (doublet, J 9 Hz; NH of anti-isomer, comprising ca. 10% of the product), 2.15-2.7 (multiplet; aromatic protons), 7.8 (singlet; CH3CO).

reactant | t-butyl 3-acetoxymethyl-7β-(2-dichloroacetoxyimino-2-phenylacetamido)-ceph-3-em-4-carboxylate | 3.0 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(C(C2=CC=CC=C2)=NOC(C(Cl)Cl)=O)=O)=O | C24H25Cl2N3O8S
solvent | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-acetoxymethyl-7β-(2-hydroxyamino-2-phenylacetamido)ceph-3-em-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(C(C2=CC=CC=C2)NO)=O)=O | C18H19N3O7S
